US08431607B2
(S)-2-(3-(4-(4-chlorophenoxy)phenyl)-4-(3-(2-hydroxyethoxy)phenyl)-2-oxoimidazolidin-1-yl)ethanesulfonamide
A solution of 2-((4S)-3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)phenyl)imidazolidin-1-yl)-N,N-bis(4-methoxybenzyl)-ethane-sulfonamide (40 mg, 0.046 mmol) in TFA (1 mL) is stirred at room temperature for 2 h and is then concentrated. The residue is dissolved in MeOH (1 mL) and NaOH (0.09 mmol, 1M aqueous solution) is added. The mixture is stirred at room temperature for 14 h and is treated with water (3 mL) and extracted with EtOAc (3×3 ml). The combined organic layers are concentrated and purified by flash column chromatography (silica gel, 0-100% EtOAc/hexane) to provide the title compound as a white solid (20 mg, 81%). 1H NMR (CDCl3, 400 MHz) δ 7.21-7.28 (m, 5H), 6.81-6.97 (m, 7H), 5.67 (s, 2H), 5.16 (dd, J=9.2, 6.8 Hz, 1H), 3.98-4.08 (m, 2H), 3.92 (m, 3H), 3.75-3.80 (m, 2H), 3.26-3.41 (m, 3H), 2.37 (br s, 1H); HPLC-MS calculated for C25H26ClN3O6S (M+H+) 532.1, found 532.1.

reactant | 2-((4S)-3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)phenyl)imidazolidin-1-yl)-N,N-bis(4-methoxybenzyl)-ethane-sulfonamide | 0.046 mmol, 40 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)OCCOC2OCCCC2)CCS(=O)(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)=O)C=C1 | C46H50ClN3O9S
reactant | NaOH | 0.09 mmol, 1M | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-2-(3-(4-(4-chlorophenoxy)phenyl)-4-(3-(2-hydroxyethoxy)phenyl)-2-oxoimidazolidin-1-yl)ethanesulfonamide | 20 mg, 81% | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)OCCO)CCS(=O)(=O)N)=O)C=C1 | C25H26ClN3O6S
